US06130341
4-Acetoxy-2,3,5-trimethylphenol (5.83 g; 30.0 mmol), 87.3% paraformaldehyde (1.24 g; 36.0 mmol), 1-butanol (14.46 g; 195.0 mmol), dibutylamine (0.39 g; 3.0 mmol) and benzoic acid (1.83 g; 15.0 mmol) were mixed together, then the mixture was reacted under reflux with stirring for 6 hours. After completion of the reaction, toluene was added into the resulting mixture for extraction of the resulting product in toluene, and then the toluene phase was separated. After the separated toluene phase was sequentially washed with water, an aqueous 1% dilute sulfuric acid solution, an aqueous 5% sodium hydrogen carbonate solution and water, the toluene phase was distilled under reduced pressure to distill off compounds with low boiling points, to give 4-acetoxy-2,3,5-trimethyl-6-butoxymethyl-1-hydroxybenzene.

reactant | 4-Acetoxy-2,3,5-trimethylphenol | 30.0 mmol, 5.83 g | C(C)(=O)OC1=C(C(=C(C=C1C)O)C)C | C11H14O3
reactant | paraformaldehyde | 36.0 mmol, 1.24 g | C=O | CH2O
reactant | 1-butanol | 195.0 mmol, 14.46 g | C(CCC)O | C4H10O
reactant | dibutylamine | 3.0 mmol, 0.39 g | C(CCC)NCCCC | C8H19N
reactant | benzoic acid | 15.0 mmol, 1.83 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-acetoxy-2,3,5-trimethyl-6-butoxymethyl-1-hydroxybenzene | C(C)(=O)OC1=C(C(=C(C(=C1C)COCCCC)O)C)C | C16H24O4
